US06191124B1
A solution of 5,6,7,8,9,10-Hexahydrocyclooct[d]imidazo[2,1-b]thiazole-3-methanol (Formula H-5) (1.6 g) in hot toluene (250 mL) was treated with MnO2 (3.8 g) and azeotropically distilled for 1 hour. The cooled mixture was filtered and the combined filtrate and ethyl acetate washes were evaporated to yield pure 5,6,7,8,9,10-Hexahydro-cyclooct[d]imidazo[2,1-b]thiazole-3-carboxaldehyde (Formula H-6) (1.41 g), m.p. 106-107°, after crystallization from hexane.

reactant | 5,6,7,8,9,10-Hexahydrocyclooct[d]imidazo[2,1-b]thiazole-3-methanol | 1.6 g | N=1C=C(N2C1SC1=C2CCCCCC1)CO | C12H16N2OS
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
catalyst | MnO2 | 3.8 g | O=[Mn]=O
product | 5,6,7,8,9,10-Hexahydro-cyclooct[d]imidazo[2,1-b]thiazole-3-carboxaldehyde | 1.41 g | N=1C=C(N2C1SC1=C2CCCCCC1)C=O | C12H14N2OS
